US06797820B2
To (2S,3R)-3-(2-butenyl)-2-hydroxysuccinic dimethyl ester F-2 (2.5 g) in ethyl acetate (50 mL) was added 10% Pd/C (0.25 g) and the reaction stirred under a hydrogen atmosphere for 20 h. The suspension was filtered through a pad of Celite, washed with EtOAc (3×) and then concentrated in vacuo to afford (2S,3R)-3-(n-butyl)-2-hydroxysuccinic dimethyl ester F-3.

reactant | (2S,3R)-3-(2-butenyl)-2-hydroxysuccinic dimethyl ester | COC([C@H]([C@H](C(=O)OC)CC=CC)O)=O | C10H16O5
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.25 g | [Pd] | Pd
product | (2S,3R)-3-(n-butyl)-2-hydroxysuccinic dimethyl ester | COC([C@H]([C@H](C(=O)OC)CCCC)O)=O | C10H18O5
